US05278161
In a manner analogous to that described above, by an aldol condensation of 2-oxo-n-valeric acid with 3-acetylpyridine there is obtained γ-oxo-α-[(E)-propylidene]-3-pyridinebutyric acid, MS: 219 (M+H)+. Ring closure with hydrazine yields 4-propyl-6-(3-pyridyl)-3(2H)-pyridazinone, MS: 215 (M)+, which is converted into the corresponding chloride, 3-chloro-4-propyl-6-(3-pyridyl)pyridazine, MS: 233 (M)+. Hydrazinolysis to 3-hydrazino-4-propyl-6-(3-pyridyl)pyridazine, MS: 229 (M)+, and condensation with diethyl (3-pyridyl)malonate yields ethyl rac-8-propyl-α-(3-pyridylmethyl)-6-(3-pyridyl)-s-triazolo[4,3-b]pyridazine-3-acetate, which is converted by basic saponification into the above acid, MS: 388 (M)+.

reactant | 2-oxo-n-valeric acid | CCCC(=O)C(=O)O | C5H8O3
reactant | 3-acetylpyridine | C(C)(=O)C=1C=NC=CC1 | C7H7NO
product | γ-oxo-α-[(E)-propylidene]-3-pyridinebutyric acid | O=C(C\C(\C(=O)O)=C/CC)C=1C=NC=CC1 | C12H13NO3
